US04536391
A 2.31 g portion of 4-(2-t-butoxycarbonylethyl)-benzonitrile was admixed with 3 ml of trifluoroacetic acid and 30 ml of methylene chloride. The mixture was stirred at room temperature for 13 hours and concentrated. The resulting concentrate was subjected to azeotropic distillation with use of toluene, giving 1.75 g (yield 100%) of crude 4-(2-hydroxycarbonylethyl)benzonitrile. This compound was used for the subsequent reaction without purification.

reactant | 4-(2-t-butoxycarbonylethyl)-benzonitrile | C(C)(C)(C)OC(=O)CCC1=CC=C(C#N)C=C1 | C14H17NO2
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-hydroxycarbonylethyl)benzonitrile | 1.75 g, yield 100% | OC(=O)CCC1=CC=C(C#N)C=C1 | C10H9NO2
